* source LC_CIRCUIT
L_L1         N14418 N14406  2.801uH  
R_R1         N14394 N14418  0.009 TC=0,0 
C_C1         N14394 N14406  6.73pF  TC=0,0 
R_R2         N14394 N14406  4.31k TC=0,0 
V_V1         N14495 0 DC 1VDC AC 1Vac 
R_R4         N14394 N14495  2 TC=0,0 
C_C2         0 N14406  0.01uF  TC=0,0 
C_C3         0 N14406  0.1uF  TC=0,0 
C_C4         0 N14406  1uF  TC=0,0 
C_C5         N16889 N14406  47uF  TC=0,0 
R_R5         0 N16889  0 TC=0,0 
