* source SSM3K15AFS_SIMULATION
X_U1         DRAIN GATE 0 NMOS_SSM3K15AFS 
R_R1         0 GATE  5k TC=0,0 
R_R2         GATE N14556  15k TC=0,0 
R_R3         0 GATE  30Meg TC=0,0 
V_V1         N14556 0 12
R_R4         DRAIN N14556  20k TC=0,0 
R_R5         DRAIN N14556  10k TC=0,0 
